US04228168
10 g of tryptamine and 10 g of cyclohexylcarbonyl chloride were treated in the same manner as described in Example 4-(1). 13.7 g of N-cyclohexylcarbonyl-tryptamine (i.e., 3-(2-cyclohexylcarbonylaminoethyl)-indole) were thereby obtained. Yield: 81.2%

reactant | tryptamine | 10 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | cyclohexylcarbonyl chloride | 10 g | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | N-cyclohexylcarbonyl-tryptamine | 13.7 g, Yield: 81.2% | C1(CCCCC1)C(=O)NCCC1=CNC2=CC=CC=C12 | C17H22N2O
